US05710129
To a cooled (0° C.) solution of H-D-Cys-OH.HCl (2.0 g, 0.013 mol) in 89.0 mL of MeOH was added 4.5 mL (0.063 mol) of AcCl. The resulting colorless solution was heated at reflux for 5 h, cooled, concentrated on a rotary evaporator, and then stripped down with Et2O until a white solid resulted. Additional Et2O (~100 mL) was added, the solid filtered, washed with Et2O, and excess solvent removed in vacuo to provide H-D-Cys-OMe.HCl as a white solid (1.80 g). The synthesized compound was identical (1H NMR) to commercially available H-Cys-OMe.HCl (Sigma).

reactant | H-D-Cys-OH.HCl | 0.013 mol, 2.0 g | N[C@H](CS)C(=O)O.Cl
reactant | AcCl | 0.063 mol, 4.5 mL | C(=O)(C)Cl | C2H3ClO
reactant | Et2O | ~100 mL | CCOCC | C4H10O
solvent | MeOH | 89.0 mL | CO | CH4O
product | H-D-Cys-OMe.HCl | 1.80 g | N[C@H](CS)C(=O)OC.Cl | InChI=1S/C4H9NO2S.ClH/c1-7-4(6)3(5)2-8;/h3,8H,2,5H2,1H3;1H/t3-;/m1./s1
